simulator lang=spectre
global 0

ahdl_include "../submission/flash_adc_3b.va"

V_VDD (vdd 0) vsource dc=0.9
V_VSS (vss 0) vsource dc=0
V_VIN (vin 0) vsource type=pwl wave=[0 0 220n 0.9]
V_CLK (clk 0) vsource type=pulse val0=0 val1=0.9 period=10n delay=100p rise=20p fall=20p width=5n
XDUT (vdd vss vin clk dout2 dout1 dout0) flash_adc_3b

tran tran stop=230n maxstep=200p
save vdd vss vin clk dout2 dout1 dout0
